US06683107B2
(2-Naphthalen-2-ylmethyl-4.5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 5, step 3 using (2-naphthalen-2-ylmethyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone (1.04 g, 2.29 mmol) and 1M boron tribroride/CH2Cl2 (4.81 mL) in CH2Cl2. Purification on Biotage KP-Sil eluting with 15% acetone/hexane gave 0.542 g (54%) of the title compound. 1H NMR (DMSO-d6) δ1.12 (d, 12 H), 1.82 (s, 3 H), 2.18 (s, 3 H), 3.31 (septet, 2 H), 4.02 (s, 2 H), 7.22 (dd, 1 H), 7.43-7.50 (m, 4 H), 7.55 (s, 1 H), 7.76-7.86 (m, 3 H), 9.12 (s, 1 H).

reactant | (2-naphthalen-2-ylmethyl-4,5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-methoxy-phenyl)-methanone | 2.29 mmol, 1.04 g | C1=C(C=CC2=CC=CC=C12)CC=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)OC)C(C)C)C)C | C31H34O3
reactant | boron | 1M | [B] | B
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4.81 mL | C(Cl)Cl | CH2Cl2
product | (2-Naphthalen-2-ylmethyl-4.5-dimethyl-furan-3-yl)-(3,5-diisopropyl-4-hydroxy-phenyl)-methanone | 0.542 g, 54% | C1=C(C=CC2=CC=CC=C12)CC=1OC(=C(C1C(=O)C1=CC(=C(C(=C1)C(C)C)O)C(C)C)C)C | C30H32O3
